### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation/Extension): add algebra instances

### PR DESCRIPTION
**Pull request by mariainesdff**
Provide algebra instances for valuation subrings and residue fields. 

Co-authored-by: @faenuccio 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mariainesdff** [comment]
This was originally  in #23590.

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 1]
```diff
@@ -160,6 +158,61 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+section AlgebraInstances
+
+open IsLocalRing Valuation ValuationSubring
+
+variable {K L Γ₀ Γ₁ : outParam Type*} [Field K] [Field L] [Algebra K L]
+  [LinearOrderedCommGroupWithZero Γ₀] [LinearOrderedCommGroupWithZero Γ₁] (vK : Valuation K Γ₀)
+   (vL : Valuation L Γ₁) [vK.HasExtension vL]
+
+local notation "K₀" => vK.valuationSubring
+local notation "L₀" => Valuation.valuationSubring vL
```
Comment (pechersky) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
local notation "K₀" => Valuation.valuationSubring vK
local notation "L₀" => Valuation.valuationSubring vL
```
to be consistent. This is better than having both `vK.valuationSubring` and `vL.valuationSubring` because this latter, dot-notation style, doesn't actually get used in pretty-printing -- I checked at the `rfl` term inside `coe_algebraMap_valuationSubring_eq`.

Any reason to prefer `valuationSubring` over `Valuation.integer`? Maybe this should even be phrased using `Valuation.Integers` so that it is more general than the "inherent" subring

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 2]
```diff
@@ -160,6 +158,61 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+
+@[simp]
+lemma coe_algebraMap_valuationSubring_eq (x : K₀) :
+  (algebraMap K₀ L₀ x : L) = algebraMap K L (x : K) := rfl
+
+instance instIsScalarTower_valuationSubring : IsScalarTower K₀ K L := by
+  refine IsScalarTower.of_algebraMap_smul ?_
+  intro k l
+  have hkl : k • l = (k : K) • l := rfl
+  simp [Algebra.smul_def, hkl]
```
Comment (pechersky) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
  intro k
  simp [Algebra.smul_def, Subring.smul_def k]
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 3]
```diff
@@ -160,6 +158,61 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+
+instance instIsScalarTower_valuationSubring' : IsScalarTower K₀ L₀ L := by
+  refine IsScalarTower.of_algebraMap_smul ?_
+  intro k l
+  have hkl : k • l = (k : K) • l := rfl
+  simp [Algebra.smul_def, hkl]
```
Comment (pechersky) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
  intro k
  simp [Algebra.smul_def, Subring.smul_def k]
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 4]
```diff
@@ -160,6 +158,61 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+
+lemma algebraMap_mem_maximalIdeal_iff {x : K₀} :
+    algebraMap K₀ L₀ x ∈ (maximalIdeal L₀) ↔ x ∈ maximalIdeal K₀ := by
+  simp only [mem_maximalIdeal_iff, coe_algebraMap_valuationSubring_eq,
+    val_map_lt_one_iff vK vL]
+
```
Comment (pechersky) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion

lemma maximalIdeal_comap_algebraMap_eq_maximalIdeal :
    (maximalIdeal L₀).comap (algebraMap K₀ L₀) = maximalIdeal K₀ :=
  Ideal.ext fun _ ↦ by rw [Ideal.mem_comap, algebraMap_mem_maximalIdeal_iff]

instance : Ideal.LiesOver (maximalIdeal L₀) (maximalIdeal K₀) :=
  ⟨(maximalIdeal_comap_algebraMap_eq_maximalIdeal _ _).symm⟩
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 5]
```diff
@@ -160,6 +158,61 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+instance : Algebra (ResidueField K₀) (ResidueField L₀) :=
+  (Ideal.Quotient.lift (maximalIdeal K₀)
+    ((Ideal.Quotient.mk (maximalIdeal L₀)).comp (algebraMap K₀ L₀))
+    (fun _ hx ↦ Ideal.Quotient.eq_zero_iff_mem.mpr
+      ((algebraMap_mem_maximalIdeal_iff vK vL).mpr hx))).toAlgebra
+
```
Comment (pechersky) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
instance : Algebra (ResidueField K₀) (ResidueField L₀) :=
  (Ideal.Quotient.lift (maximalIdeal K₀)
    ((Ideal.Quotient.mk (maximalIdeal L₀)).comp (algebraMap K₀ L₀))
    (fun _ hx ↦ Ideal.Quotient.eq_zero_iff_mem.mpr
      ((algebraMap_mem_maximalIdeal_iff vK vL).mpr hx))).toAlgebra

lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
    (algebraMap (ResidueField K₀) (ResidueField L₀)) (IsLocalRing.residue K₀ x) =
      IsLocalRing.residue L₀ (algebraMap K₀ L₀ x) :=
  rfl
```

It's too bad that `IsLocalRing.residue` is noncomputable, could have referred to it directly in the algebra defn. Still, good to give the algebraMap definitional lemma.

**Review by pechersky — COMMENTED** [review]
Thank you!

I left some additional lemmas. I am curious if stating this over `Valuation.integer` will make it easier to synthesize instances at use sites -- especially since `𝒪[K]` (Valued.integer) is defined via `Valuation.integer` and not `Valuation.valuationSubring`.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Extension.lean]: We prefer `valuationSubring` because it gives us access to the `ValuationSubring` API (and we work with `vK.valuationSubring` throughout the local fields project).

**Comment by pechersky** [comment]
> We prefer valuationSubring because it gives us access to the ValuationSubring API (and we work with vK.valuationSubring throughout the local fields project).

I see, thanks for explaining! And I see that above in this file, there is an `Algebra vR.integer vA.integer` instance. In that case, you can reuse their results, in this manner:
```
instance instAlgebra_valuationSubring : Algebra K₀ L₀ :=
  inferInstanceAs (Algebra vK.integer vL.integer)

instance instIsScalarTower_valuationSubring : IsScalarTower K₀ K L :=
  inferInstanceAs (IsScalarTower vK.integer K L)

instance instIsScalarTower_valuationSubring' : IsScalarTower K₀ L₀ L :=
  instIsScalarTowerInteger

instance : IsLocalHom (algebraMap K₀ L₀) := instIsLocalHomValuationInteger

noncomputable
instance : Algebra (ResidueField K₀) (ResidueField L₀) := inferInstance
```

Separately, maybe we should redefine `Valued.integer` to use `Valuation.valuationSubring` to get easier access to the constructions here.

I found the above golfs by testing how the following works on your branch -- and seeing that things worked, but not via your results.
```
import Mathlib

variable {K L Γ₀ Γ₀' : Type*} [Field K] [Field L] [Algebra K L]
  [LinearOrderedCommGroupWithZero Γ₀] [LinearOrderedCommGroupWithZero Γ₀']
  [Valued K Γ₀] [Valued L Γ₀']
  [Valuation.HasExtension (Valued.v : Valuation K Γ₀) (Valued.v : Valuation L Γ₀')]

open Valued
#synth Algebra 𝒪[K] 𝒪[L] -- Valuation.HasExtension.instAlgebraInteger, which is via Valuation.integer
#synth Algebra 𝓀[K] 𝓀[L] -- IsLocalRing.ResidueField.instAlgebra
```

**Comment by mariainesdff** [comment]
> I see, thanks for explaining! And I see that above in this file, there is an `Algebra vR.integer vA.integer` instance. In that case, you can reuse their results, in this manner:

Thanks, I have replaced the instances with your suggestions.

**Comment by mariainesdff** [comment]
> Separately, maybe we should redefine `Valued.integer` to use `Valuation.valuationSubring` to get easier access to the constructions here.
> 
I agree that it would be better to have `Valued.valuationSubring` rather than `Valued.integer`. However, since `Valued` will eventually be replaced by `ValuativeRel`, it might make sense to wait for this refactor before pushing this change.

**Review by pechersky — APPROVED** [review]

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 6]
```diff
@@ -160,6 +158,58 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+  inferInstanceAs (IsScalarTower vK.integer K L)
+
+instance instIsScalarTower_valuationSubring' : IsScalarTower K₀ L₀ L :=
+  instIsScalarTowerInteger
+
+instance : IsLocalHom (algebraMap K₀ L₀) := instIsLocalHomValuationInteger
+
+lemma algebraMap_mem_maximalIdeal_iff {x : K₀} :
+    algebraMap K₀ L₀ x ∈ (maximalIdeal L₀) ↔ x ∈ maximalIdeal K₀ := by
+  simp only [mem_maximalIdeal_iff, coe_algebraMap_valuationSubring_eq,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Extension.lean]: Can you unsqueeze the `simp`?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 7]
```diff
@@ -160,6 +158,58 @@ theorem instIsLocalHomValuationInteger {S ΓS : Type*} [CommRing S]
...
+    val_map_lt_one_iff vK vL]
+
+lemma maximalIdeal_comap_algebraMap_eq_maximalIdeal :
+    (maximalIdeal L₀).comap (algebraMap K₀ L₀) = maximalIdeal K₀ :=
+  Ideal.ext fun _ ↦ by rw [Ideal.mem_comap, algebraMap_mem_maximalIdeal_iff]
+
+instance : Ideal.LiesOver (maximalIdeal L₀) (maximalIdeal K₀) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Extension.lean:200]: Can you give it a name? The autogenerated one is `Valuation.HasExtension.instAlgebraResidueFieldSubtypeMemValuationSubringValuationSubring`...

More importantly, I have the impression this create a diamond: renaming it to `foo` the following fails
```lean
example {K Γ₀ : Type*} [Field K] [LinearOrderedCommGroupWithZero Γ₀] (vK : Valuation K Γ₀)
    [vK.HasExtension vK] : foo vK vK = Algebra.id _ := by
  with_reducible_and_instances
  rfl
```
But I think the problem is with `IsLocalRing.ResidueField.instAlgebra` and should probably be solved in another PR.

Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Extension.lean:200]: I renamed it to `instAlgebra_residueField`. 

Indeed, the problem seems to be with `IsLocalRing.ResidueField.instAlgebra`, since the following also fails:
```lean
example {R : Type*} [CommRing R] [IsLocalRing R] [IsLocalHom (algebraMap R R)] : 
  IsLocalRing.ResidueField.instAlgebra (R := R) (S := R) = Algebra.id _ := by
  with_reducible_and_instances
  rfl
```

Comment (riccardobrasca) [reply Mathlib/RingTheory/Valuation/Extension.lean:200]: But why you need it? If it's proved by `inferInstance` it means the instance is already there, right?

Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Extension.lean:200]: That's a good point; I deleted it.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
